US09399798B2
To a solution of 4-iodo-3-nitroanisole (2.79 g, 10.0 mmol) in anhydrous THF (20 mL) at minus 40° C. under a nitrogen atmosphere, phenylmagnesium chloride (2 M in THF, 6.0 mL, 12 mmol) was added dropwise at a rate such that the temperature would not exceed minus 35° C. Upon completion of the addition, the mixture was stirred at minus 40° C. for five min, followed by addition of isobutyraldehyde (1.8 mL, 20 mmol). The mixture was gradually warmed to room temperature, quenched with saturated NH4Cl solution (5.0 mL), diluted with CH2Cl2 (100 mL) and washed with water (100 mL). The organic phase was separated, and the aqueous phase was extracted with CH2Cl2 (50 mL) three times. The combined organic phase was washed with brine (40 mL), dried over Na2SO4, concentrated in vacuo, and the residue was purified by silica gel column chromatography to yield (R/S)-1-(4-methoxy-2-nitrophenyl)-2-methyl-1-propanol (1.5 g, 67%) as a light yellow oil. 1H NMR (400 MHz, CDCl3): δ 7.61 (d, 1H, J=8.8 Hz, Ph-H), 7.34 (d, 1H, J=2.8 Hz, Ph-H), 7.15 (dd, 1H, J=8.8 and 2.8 Hz, Ph-H), 4.92 (dd, 1H, J=5.6 and 3.2 Hz, Ph-CH), 2.46 (br s, 1H, OH), 2.00 (m, 1H, CH), 0.97 (d, 3H, J=6.4 Hz, CH3), 0.86 (d, 3H, J=6.8 Hz, CH3).

reactant | 4-iodo-3-nitroanisole | 10.0 mmol, 2.79 g | IC1=C(C=C(C=C1)OC)[N+](=O)[O-] | C7H6INO3
reactant | phenylmagnesium chloride | 12 mmol, 2 M, 6.0 mL | C1(=CC=CC=C1)[Mg]Cl
reactant | isobutyraldehyde | 20 mmol, 1.8 mL | C(C(C)C)=O | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (R/S)-1-(4-methoxy-2-nitrophenyl)-2-methyl-1-propanol | 1.5 g, 67% | COC1=CC(=C(C=C1)C(C(C)C)O)[N+](=O)[O-] | C11H15NO4
